US06579872B1
Using an analogous procedure to that described in the first paragraph of Example 25, 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid was reacted with N-(3-amino-4-methylphenyl)-3-pyrrolidin-1-ylbenzamide to give N-[2-methyl-5-(3-pyrrolidin-1-ylbenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamide in 69% yield; NMR Spectrum: (DMSOd6) 1.39 (s, 9H), 1.56 (m, 2H), 1.87 (m, 2H), 3.2 (m, 2H), 3.64 (m, 2H), 4.62 (m, 1H), 6.69 (d, 1H), 7.02 (s, 1H), 7.2 (m, 4H), 7.42 (t, 1H), 7.56 (m, 3H), 7.79 (s, 1H), 9.83 (s, 1H), 10.05 (s, 1H); Mass Spectrum: M+H+ 599.

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1 | C17H23NO5
reactant | N-(3-amino-4-methylphenyl)-3-pyrrolidin-1-ylbenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCCC1)=O | C18H21N3O
product | N-[2-methyl-5-(3-pyrrolidin-1-ylbenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamide | 69% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCCC1)=O)NC(C1=CC(=CC=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C35H42N4O5
